### PR TITLE
[Merged by Bors] - feat(Topology): some lemmas about topological bases

### PR DESCRIPTION
**Pull request by CoolRmal**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Bases.lean [hunk 1]
```diff
@@ -289,15 +290,28 @@ theorem isTopologicalBasis_of_cover {ι} {U : ι → Set α} (Uo : ∀ i, IsOpen
     exact ⟨(↑) '' v, mem_iUnion.2 ⟨i, mem_image_of_mem _ hvb⟩, mem_image_of_mem _ hav,
       image_subset_iff.2 hvu⟩
 
-protected theorem IsTopologicalBasis.continuous_iff {β : Type*} [TopologicalSpace β]
+protected theorem IsTopologicalBasis.continuous_iff [TopologicalSpace β]
     {B : Set (Set β)} (hB : IsTopologicalBasis B) {f : α → β} :
     Continuous f ↔ ∀ s ∈ B, IsOpen (f ⁻¹' s) := by
   rw [hB.eq_generateFrom, continuous_generateFrom_iff]
 
+theorem IsTopologicalBasis.continuousOn_iff [TopologicalSpace β]
```
Comment (CoolRmal) [inline Mathlib/Topology/Bases.lean:298]: Not sure whether I should put this theorem in this file as it is the reason why I import Mathlib.Topology.ContinuousOn. I need to import Mathlib.Topology.Bases if I put this lemma in Mathlib.Topology.ContinuousOn.

File: Mathlib/Topology/Bases.lean [hunk 2]
```diff
@@ -289,15 +290,28 @@ theorem isTopologicalBasis_of_cover {ι} {U : ι → Set α} (Uo : ∀ i, IsOpen
...
+  refine ⟨fun h t ht => h t (hB.isOpen ht), fun h t ht => ?_⟩
+  obtain ⟨ι, g, rfl, hg⟩ := hB.open_eq_iUnion ht
+  choose v hv he using (fun i => h (g i) (hg i))
+  exact ⟨⋃ i, v i, isOpen_iUnion hv, by simp_all [iUnion_inter]⟩
+
 @[simp] lemma isTopologicalBasis_empty : IsTopologicalBasis (∅ : Set (Set α)) ↔ IsEmpty α where
   mp h := by simpa using h.sUnion_eq.symm
   mpr h := ⟨by simp, by simp [Set.univ_eq_empty_iff.2], Subsingleton.elim ..⟩
 
+@[simp] lemma isTopologicalBasis_empty' : IsTopologicalBasis {(∅ : Set α)} ↔ IsEmpty α where
```
Comment (wwylele) [inline Mathlib/Topology/Bases.lean]: A possible name to avoid prime

```suggestion
@[simp] lemma isTopologicalBasis_singleton_empty : IsTopologicalBasis {(∅ : Set α)} ↔ IsEmpty α where
```

File: Mathlib/Topology/Bases.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/Bases.lean:298]: Is there a reason you think that this import might be bad? Without knowing anything more about this, this import seems okay to me.

File: Mathlib/Topology/Bases.lean [hunk 3]
```diff
@@ -777,6 +792,14 @@ theorem exists_countable_basis [SecondCountableTopology α] :
   refine ⟨_, ?_, notMem_diff_of_mem ?_, (isTopologicalBasis_of_subbasis hb₂).diff_empty⟩
   exacts [((countable_setOf_finite_subset hb₁).image _).mono diff_subset, rfl]
 
+theorem exists_seq_basis [SecondCountableTopology α] :
+    ∃ b : ℕ → Set α, IsTopologicalBasis (range b) := by
+  obtain ⟨t, ht⟩ :=  TopologicalSpace.exists_countable_basis α
```
Comment (plp127) [inline Mathlib/Topology/Bases.lean]:
```suggestion
  obtain ⟨t, ht⟩ := TopologicalSpace.exists_countable_basis α
```

File: Mathlib/Topology/Bases.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/Topology/Bases.lean:298]: I originally thought that this would be a large import. But still I am importing a relatively large file for a single lemma.

Comment (scholzhannah) [reply Mathlib/Topology/Bases.lean:298]: I think that a lot of files that import the bases file will probably also import the ContinuousOn file since this is a relatively basic topology project. So my intuition would be that it is fine.

**Comment by j-loreaux** [comment]
Thanks!

bors merge
